US08242145B2
Step 4: (2-Bromo-5-hydroxy-phenyl)-acetic acid methyl ester
To (2-bromo-5-hydroxy-phenyl)-acetic acid (1.5 g, 6.5 mmol) in MeOH (15 mL) was added HCl (4N in 1,4-dioxane; 3 mL), and the solution was heated to 70° C. for 8 hours. The mixture was concentrated to give the desired product as a white solid (1.2 g).

reactant | (2-bromo-5-hydroxy-phenyl)-acetic acid | 6.5 mmol, 1.5 g | BrC1=C(C=C(C=C1)O)CC(=O)O | C8H7BrO3
reactant | HCl | 4N, 3 mL | Cl | ClH
reactant | MeOH | 15 mL | CO | CH4O
product | (2-Bromo-5-hydroxy-phenyl)-acetic acid methyl ester | 1.2 g | COC(CC1=C(C=CC(=C1)O)Br)=O | C9H9BrO3
